US04908386
Ethyl N-[5-[1-hydroxy-2-[(phenylmethyl)[6-(3-phenylpropoxy)hexyl]amino]ethyl]-2-(phenylmethoxy)phenyl]carbamate
A solution of ethyl N-[5-bromoacetyl-2-(phenylmethoxy)phenyl]carbamate (0.58 g), N-[6-(3-phenylpropoxy)hexyl]benzenemethanamine hydrobromide (0.66 g) and DEA (0.48 g) in dichloromethane (15 ml) was stirred at room temperature under nitrogen for 26 h. Dichloromethane (50 ml) was added, the solution washed successively with 2N hydrochloric acid (50 ml), water (50 ml), 8% sodium bicarbonate solution (50 ml), dried and evaporated in vacuo. The residual brown oil (1.02 g) in absolute ethanol (20 ml) at 0° was treated with sodium borohydride (0.15 g), and the mixture was allowed to warm up to room temperature and stirred under nitrogen for 18 h. 2N Hydrochloric acid (5 ml) was cautiously added, the mixture stirred at room temperature for 5 min and evaporated in vacuo. The residue was partitioned between 8% sodium bicarbonate solution (10 ml) and EA (20 ml) and the organic phase dried and evaporated in vacuo to give a yellow oil. Purification by FCC on triethylamine deactivated silica (40 g) eluting with ER-CX (7:3) gave the title compound as a colourless oil (0.84 g).

reactant | ethyl N-[5-bromoacetyl-2-(phenylmethoxy)phenyl]carbamate | 0.58 g | BrCC(=O)C=1C=CC(=C(C1)NC(OCC)=O)OCC1=CC=CC=C1 | C18H18BrNO4
reactant | N-[6-(3-phenylpropoxy)hexyl]benzenemethanamine hydrobromide | 0.66 g | Br.C1(=CC=CC=C1)CCCOCCCCCCNCC1=CC=CC=C1
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl N-[5-[1-hydroxy-2-[(phenylmethyl)[6-(3-phenylpropoxy)hexyl]amino]ethyl]-2-(phenylmethoxy)phenyl]carbamate | 0.84 g | OC(CN(CCCCCCOCCCC1=CC=CC=C1)CC1=CC=CC=C1)C=1C=CC(=C(C1)NC(OCC)=O)OCC1=CC=CC=C1 | C40H50N2O5
